US04713457
N-(6-methylergolin-8β-ylmethyl)succinimide
0.8 g of 50% sodium hydride in an oil was added in small portions to a mixture of 3.4 g of succinimide and 50 ml of dimethylformamide, and the resulting mixture was stirred for 30 minutes. 2.0 g of 6-methylergolin-8β-ylmethyl tosylate was added to the mixture which was then heated on a water bath for 30 minutes. The solvent was distilled off under reduced pressure, and water was added to the residue. The precipitated crystals were separated by filtration, and washed with water. The crystals thus obtained were treated with charcoal in ethanol and recrystallized from ethanol to obtain 0.9 g of the titled compound as colorless needles having a melting point of 233°-238° C. (with decomposition).

reactant | sodium hydride | 0.8 g | [H-].[Na+]
reactant | succinimide | 3.4 g | C1(CCC(N1)=O)=O | C4H5NO2
reactant | 6-methylergolin-8β-ylmethyl tosylate | 2.0 g | S(=O)(=O)(OC[C@H]1CN([C@@H]2CC3=CNC4=CC=CC([C@H]2C1)=C34)C)C3=CC=C(C)C=C3 | C23H26N2O3S
reactant | charcoal | C | CH4
solvent | ethanol | C(C)O | C2H6O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-(6-methylergolin-8β-ylmethyl)succinimide | 0.9 g | CN1C[C@@H](C[C@@H]2C=3C=CC=C4NC=C(C[C@@H]12)C34)CN3C(CCC3=O)=O | C20H23N3O2
